US04282242
Methyl 4-cyclohexylcarbonylpyrrole-3-carboxylate.
Belgian Pat. No. 870,910 (published Mar. 29, 1979) generally discloses analogous compounds, specifically examplifying the preparation of methyl 1-methyl-4-(3-chlorobenzoyl)pyrrole-3-carboxylate by Friedel-Crafts acylation of 1-methylpyrrole-3-carboxylate.

reactant | methyl 1-methyl-4-(3-chlorobenzoyl)pyrrole-3-carboxylate | CN1C=C(C(=C1)C(C1=CC(=CC=C1)Cl)=O)C(=O)OC | C14H12ClNO3
reactant | 1-methylpyrrole-3-carboxylate | CN1C=C(C=C1)C(=O)[O-]
product | Methyl 4-cyclohexylcarbonylpyrrole-3-carboxylate | C1(CCCCC1)C(=O)C=1C(=CNC1)C(=O)OC | C13H17NO3
